US08557805B2
5-[4-(Methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid
A mixture of ethyl 5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylate (5.33 g), 1M aqueous sodium hydroxide solution (20 mL), tetrahydrofuran (20 mL), and ethanol (20 mL) was stirred at 60° C. for 40 min. The reaction solution was concentrated under reduced pressure, and the residue was dissolved in water, and washed with ethyl acetate. To the aqueous layer was added 1M hydrochloric acid (30 mL), and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure to give the title compound (1.95 g, yield 74%) as an orange amorphous solid.

reactant | ethyl 5-{[5-(methylsulfonyl)pyridin-2-yl]oxy}-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylate | 5.33 g | CS(=O)(=O)C=1C=CC(=NC1)OC=1C=C2C=C(NC2=C(C1)OC1CCOCC1)C(=O)OCC | C22H24N2O7S
reactant | sodium hydroxide | 1M, 20 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 5-[4-(Methylsulfonyl)phenoxy]-7-(tetrahydro-2H-pyran-4-yloxy)-1H-indole-2-carboxylic acid | 1.95 g, yield 74% | CS(=O)(=O)C1=CC=C(OC=2C=C3C=C(NC3=C(C2)OC2CCOCC2)C(=O)O)C=C1 | C21H21NO7S
